US07087756B2
a) 3-Methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide
To a suspension of 6.0 g (29.6 mmol) of 3-methyl-5-phenyl-isoxazole-4-carboxylic acid in 150 ml DCE is added 0.3 ml of DMF and 2.6 ml (35.5 mmol, 1.2 eq.) of thionyl chloride. The mixture is stirred for 2 h at reflux until a brown solution is formed. The solution is cooled to room temperature and then slowly added to a 8M solution of methylamine in ethanol (18 ml) at 5° C. The suspension is poured onto methylene chloride, washed with sat. NaHCO3-solution, dried over Na2SO4 and concentrated. This yields 6.7 g (quant.) of the title compound as brown solid, which is used for further reactions without purification. Mass spectrum: m/z (M+H)+: 217.2

reactant | 3-methyl-5-phenyl-isoxazole-4-carboxylic acid | 29.6 mmol, 6.0 g | CC1=NOC(=C1C(=O)O)C1=CC=CC=C1 | C11H9NO3
reactant | DMF | 0.3 ml | CN(C)C=O | C3H7NO
reactant | thionyl chloride | 35.5 mmol, 2.6 ml, 1.2 eq. | S(=O)(Cl)Cl | Cl2OS
reactant | methylamine | CN | CH5N
solvent | DCE | 150 ml | ClCCCl | C2H4Cl2
solvent | ethanol | 18 ml | C(C)O | C2H6O
product | 3-Methyl-5-phenyl-isoxazole-4-carboxylic acid methylamide | CNC(=O)C=1C(=NOC1C1=CC=CC=C1)C | C12H12N2O2
